US07271197B2
ii) (5R)-3-{2-[4-(2-{[3-(Cyclopentylsulfinyl)benzyl]oxy}ethoxy)phenyl]ethyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one
A solution of (5R)-3-{2-[4-(2-{[3-(cyclopentylthio)benzyl]oxy}ethoxy)phenyl]ethyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (276 mg) in EtOH (15 ml) and water (5 ml) was treated with sodium periodate (391 mg) and stirred at room temperature under nitrogen for 3 h. The solution was concentrated in vacuo before pouring into water and extracting with EtOAc. The combined organic layers were washed with water, dried (MgSO4) and concentrated in vacuo to give the title compound (278 mg). LCMS RT=3.42 min.

reactant | (5R)-3-{2-[4-(2-{[3-(cyclopentylthio)benzyl]oxy}ethoxy)phenyl]ethyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 276 mg | C1(CCCC1)SC=1C=C(COCCOC2=CC=C(C=C2)CCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=CC1 | C35H41NO6S
reactant | sodium periodate | 391 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | EtOH | 15 ml | CCO | C2H6O
solvent | water | 5 ml | O | H2O
product | (5R)-3-{2-[4-(2-{[3-(Cyclopentylsulfinyl)benzyl]oxy}ethoxy)phenyl]ethyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 278 mg | C1(CCCC1)S(=O)C=1C=C(COCCOC2=CC=C(C=C2)CCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=CC1 | C35H41NO7S
